US09328110B2
A Parr hydrogenation vessel was charged with 2-(2,2-dimethyl-3-nitropropyl)-2-methyl-[1,3]dioxolane (23.1 g, 113 mmol), 5% platinum on carbon catalyst (3.0 g) and ethanol (250 mL); placed on a Parr shaker; and the system pressurized to 50 psi (3.4×105 Pa) hydrogen. After shaking for 24 hours, the reaction mixture was filtered through CELITE filter agent and concentrated under reduced pressure to provide 2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propylamine (19.8 g) as an oil that was used directly in the next step without further purification.

reactant | 2-(2,2-dimethyl-3-nitropropyl)-2-methyl-[1,3]dioxolane | 113 mmol, 23.1 g | CC(CC1(OCCO1)C)(C[N+](=O)[O-])C | C9H17NO4
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 3.0 g | [Pt] | Pt
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propylamine | 19.8 g | CC(CN)(CC1(OCCO1)C)C | C9H19NO2
